US05958918
C. 7-Methoxynaphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide
To a solution of 4-(3-Amino-2-oxopyrrolidine-1-ylmethyl)thiophene-2-carbonitrile hydrochloride (0.43 g, 1.8 mmol), prepared as in EXAMPLE 122, in 10 mL of CH2Cl2 is added 7-methoxynaphthalene-2-sulfonyl chloride (0.51 g, 2 mmol) and triethyl amine (0.55 g, 5.4 mmol). After 16 hours, the solution is diluted with EtOAc and H2O. The layers are separated. The organic layer is washed with 1 N HCl, sat. NaHCO3 and sat. NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The crude product is purified by column chromatography eluting with gradient of 10% EtOAc/CH2Cl2 to 20% EtOAc/CH2Cl2 to afford the title compound (0.50 g, 1.22 mmol) as a white solid.

reactant | 4-(3-Amino-2-oxopyrrolidine-1-ylmethyl)thiophene-2-carbonitrile hydrochloride | 1.8 mmol, 0.43 g | Cl.NC1C(N(CC1)CC=1C=C(SC1)C#N)=O
reactant | 7-methoxynaphthalene-2-sulfonyl chloride | 2 mmol, 0.51 g | COC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)Cl | C11H9ClO3S
reactant | triethyl amine | 5.4 mmol, 0.55 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 7-Methoxynaphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | 1.22 mmol, 0.50 g | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C21H19N3O4S2
